2122-03-01 06:31:00 Physician Resident Progress Note
Chief Complaint: Shortness of Breath
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2122-2-28**] 01:00 PM
 NON-INVASIVE VENTILATION - STOP [**2122-2-28**] 03:00 PM
   Coming from home but recently in [**Hospital1 **]
   Over the course of the night was weaned, when on left side ok on NC but
   when on right side needs face mask
   Bad lung = right lung
   Anemic
 getting 1 unit of PRBC, unclear if actually bleeding or from
   where
   CKI
 GFR ~0
   On Vanc/Cefepime for PNA
 started on Vanc/Zosyn in ED
   ? if CHF component to all of this
   Allergies:
   Iodine
   Rash;
   Lipitor (Oral) (Atorvastatin Calcium)
   Arthralgia/Arth
   Last dose of Antibiotics:
   Cefipime - [**2122-2-28**] 09:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2122-3-1**] 12:32 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-3-1**] 06:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**23**] AM
   Tmax: 36.1
C (97
   Tcurrent: 35.4
C (95.8
   HR: 61 (58 - 70) bpm
   BP: 159/57(83) {110/38(56) - 170/74(98)} mmHg
   RR: 16 (14 - 23) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 64.6 kg (admission): 65 kg
           Total In:
                                                                  1,538 mL
                                                                    462 mL
   PO:
                                                                    120 mL
                                                                     90 mL
   TF:
   IVF:
                                                                    818 mL
                                                                     63 mL
   Blood products:
   309 mL
   Total out:
                                                                  2,270 mL
                                                                    230 mL
   Urine:
                                                                    570 mL
                                                                    230 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -732 mL
                                                                    232 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: CPAP/PSV
   PS : 12 cmH2O
   RR (Spontaneous): 37
   PEEP: 5 cmH2O
   FiO2: 60%
   PIP: 18 cmH2O
   SpO2: 95%
   ABG: ///21/
   Ve: 14.5 L/min
   Physical Examination
   Vitals: T afebrile, 160/69, 59, 28, 98% on bipap 50% 12/5.
   General: Alert, oriented, uncomfortable
   HEENT: Sclera anicteric, MMM, on mask
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, decreased lung sounds on the
   R base, no wheezes, rales, ronchi
   CV: Distant heart sounds, Regular rate and rhythm, normal S1 + S2, no
   murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly, well healed colostomy
   scar in LLQ
   GU: foley
   Ext: cool, well perfused, 1+ pulses, no clubbing, cyanosis or edema,
   trace edema in bilateral feet
   Labs / Radiology
   207 K/uL
   7.4 g/dL
   89 mg/dL
   3.2 mg/dL
   21 mEq/L
   4.8 mEq/L
   68 mg/dL
   112 mEq/L
   144 mEq/L
   23.5 %
   5.3 K/uL
        [image002.jpg]
                             [**2122-2-28**]  03:17 PM
                             [**2122-2-28**]  09:57 PM
   WBC
   7.2
   5.3
   Hct
   27.0
   23.5
   Plt
   242
   207
   Cr
   3.5
   3.2
   TropT
   0.08
   0.08
   Glucose
   119
   89
   Other labs: CK / CKMB / Troponin-T:49//0.08, Alk Phos / T Bili:/0.2,
   Ca++:7.8 mg/dL, Mg++:1.7 mg/dL, PO4:5.0 mg/dL
   Imaging: SINGLE VIEW OF THE CHEST: There is a left ventricular
   configuration of the heart, with aortic enlargement and calcification.
   Although the cardiomediastinal contour is similar to prior studies
   allowing for differences in positioning and AP technique, there is
   increased prominence of vascular markings throughout the lung fields
   and upper zone vascular redistribution
   indicative of of pulmonary edema. There is also a combination of
   effusion and consolidation at both lung bases in comparison to baseline
   radiographs. Evaluation of the left lung apex is limited given
   patient's head positioning. Osseous structures demonstrate moderate
   degenerative changes of the spine and shoulders.
   IMPRESSION:
   1. Congestive heart failure.
   2. Bibasilar effusions/atelectasis and consolidations.
   Post-diuresis repeat PA and lateral when clinically feasible is
   recommended.
   Assessment and Plan
   [**Age over 90 **] y/o F with PMH of HTN, hyperlipidemia, recent possible CVA, and
   chronic kidney disease prsents with worsening SOB starting last night
   and continuing until morning.  CXR with evidence of pneumonia and
   effusion.  Also with worsening renal failure and hyperkalemia.
   # Hypoxic Respiratory Distress: unclear trigger for new hypoxic
   respiratory failure.  She does not wear oxygen at home, but per report
   has nighttime SOB that seems to be chronic.  This seems likely to be
   orthopnea related to worsening CHF, although she does not have a hx of
   CAD or CHF.  Could be pulm edema related to uncontrolled hypertension
   and had a flash episode last night.  CXR also concerning for RLL
   pneumonia, and she does have hx of recent CVA and could be aspirating.
   Other etiology on the differential could be PE as she was hospitalized
   recently, but no leg swelling and has been ambulating at home.
   - comfortable on bipap, wean as tolerated today
   - treat for HAP as below
   - consider echo, CT scan for further eval
   # PNA: has RLL infiltrate on CXR.  No leukocytosis, although higher
   than her baseline.  No history of fevers or chills.  Has recently been
   in rehab.  Has no signs of sepsis related to PNA.
   - treat for HAP with vanco/cefepime for now
   - consider flagyl if patient decompensates for anaerobic coverage and
   treatment of potential chronic aspiration
   - send legionella urinary antigen
   # CHF/Effusion: has what looks like R sided pleural effusion and
   evidence of fluid overload on CXR.  Has decreased breath sounds on the
   R, but few crackles.  Could either be related to heart failure, which
   seems feasible given her hx of orthopnea.  Or could be a parapneumonic
   effusion.
   - echo in AM
   - consider CT scan of chest for better clarification of the pneumonia
   and the effusion
   - consider thoracentesis
   - would hold on diuresis given ARF and is likely dry
   # HTN: was hypertensive on admission, which could be contributing to
   edema leading to worsening SOB.  Unclear baseline BP, although last
   progress note says her BP was 130/70.  Was started on nitro gtt in the
   ED.  HR in 50s-60s, so would not tolerate esmolol gtt now.  Only on
   atenolol and amlodipine at home for BP control.
   - titrate off nitro gtt as tolerated
   - restart home meds once BP controlled
   # Acute on chronic Renal Failure: has Cr of 3.3 today up from a
   baseline in the mid 2s earlier this year.  This may be her new baseline
   or may represent some mild pre-renal changes in the setting of an
   infection.
   - urine lytes
   - would hold on diuresis now, but would also be gentle with IVFs given
   her potential CHF and new effusion
   - [**Hospital1 7**] lytes
   - will add on Ca/Mg/Phos, based on results consider phos binders
   - contact outpatient nephrologist, consider renal consult
   # Hyperkalemia: has K+ of 6.1 in setting of acute on chronic renal
   failure.  Has high baseline K and EKG has mild peaking of TWs but not
   changed from previous EKGs.  Received kayexcelate in the ED.
   - recheck lytes this afternoon
   - kayexcelate as needed
   - low K+ diet when taking POs
   # CVA/TIA history: has hx of questionable CVA in [**Month (only) 25**], although no
   obvious evidence on imaging per prior notes.
   - speech and swallow when respiratory status improves
   - PT
   # FEN: IVF, replete electrolytes, NPO with sips
   # Prophylaxis: Subcutaneous heparin
   # Access: peripherals
   # Communication: Patient and daughter [**Name (NI) **] (HCP) [**Telephone/Fax (1) 14075**]
   # Code:  Full (discussed with patient)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2122-2-28**] 01:05 PM
   20 Gauge - [**2122-2-28**] 01:07 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2122-03-01 09:06:00 Physician Attending Progress Note
Chief Complaint: Hypoxemia, Pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Still requiring intermittent high flow mask to maintain oxygenation but
   much more comfortable overall
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2122-2-28**] 01:00 PM
 NON-INVASIVE VENTILATION - STOP [**2122-2-28**] 03:00 PM
   History obtained from [**Hospital 15**] Medical records, icu team
   Allergies:
   Iodine
   Rash;
   Lipitor (Oral) (Atorvastatin Calcium)
   Arthralgia/Arth
   Last dose of Antibiotics:
   Cefipime - [**2122-2-28**] 09:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2122-3-1**] 12:32 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2122-3-1**] 09:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**23**] AM
   Tmax: 36.1
C (97
   Tcurrent: 35.4
C (95.8
   HR: 60 (58 - 70) bpm
   BP: 147/40(69) {110/38(56) - 170/74(98)} mmHg
   RR: 20 (14 - 23) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 64.6 kg (admission): 65 kg
           Total In:
                                                                  1,538 mL
                                                                    528 mL
   PO:
                                                                    120 mL
                                                                     90 mL
   TF:
   IVF:
                                                                    818 mL
                                                                     88 mL
   Blood products:
   350 mL
   Total out:
                                                                  2,270 mL
                                                                    255 mL
   Urine:
                                                                    570 mL
                                                                    255 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -732 mL
                                                                    273 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   PS : 12 cmH2O
   RR (Spontaneous): 37
   PEEP: 5 cmH2O
   FiO2: 60%
   PIP: 18 cmH2O
   SpO2: 96%
   ABG: ///19/
   Ve: 14.5 L/min
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Obese, ostomy healthy appearing
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.3 g/dL
   180 K/uL
   87 mg/dL
   3.2 mg/dL
   19 mEq/L
   4.9 mEq/L
   64 mg/dL
   112 mEq/L
   144 mEq/L
   29.6 %
   6.4 K/uL
        [image002.jpg]
                             [**2122-2-28**]  03:17 PM
                             [**2122-2-28**]  09:57 PM
                             [**2122-3-1**]  06:44 AM
   WBC
   7.2
   5.3
   6.4
   Hct
   27.0
   23.5
   29.6
   Plt
   [**Telephone/Fax (3) 14080**]
   Cr
   3.5
   3.2
   3.2
   TropT
   0.08
   0.08
   Glucose
   119
   89
   87
   Other labs: CK / CKMB / Troponin-T:49//0.08, Alk Phos / T Bili:/0.4,
   Ca++:7.7 mg/dL, Mg++:1.9 mg/dL, PO4:5.4 mg/dL
   Microbiology: CXR:
   Assessment and Plan
 ANEMIA, OTHER
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 HYPERTENSION, BENIGN
   [**Age over 90 **] yo woman COPD, complicated medical history who is admitted to the
   ICU with RLL pneumonia with hypoxemia
   1. Pneumonia: Cont treatment for HAP with cefepime and vanc by level -
   redose today.  Small effusion on bedside ultrasound - not enough to tap
   but will follow CXR
   2. Hypoxemia: Continues to have better oxygenation while lying with L
   side down.  Wean O2 as tolerated.  TTE today.
   3. Acute renal failure: Cr down slightly but not back down to baseline
   4. Metabolic acidosis: Mild - cont to monitor
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2122-2-28**] 01:05 PM
   20 Gauge - [**2122-2-28**] 01:07 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2122-03-02 07:28:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Pt. was stable throught the day.  Difficult to obtain blood, multiple
   bruises from blood draw sites and patient complained of a lot of pain.
   Started on standing tylenol, small dose of oxycodone prn, and a
   lidocaine patch.  Pharmacy recommended changing vanco dose to 1g q48h.
   In to get a PICC today. Today is her 92nd birthday.
   Allergies:
   Iodine
   Rash;
   Lipitor (Oral) (Atorvastatin Calcium)
   Arthralgia/Arth
   Last dose of Antibiotics:
   Vancomycin - [**2122-3-1**] 11:34 AM
   Cefipime - [**2122-3-1**] 10:04 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2122-3-2**] 12:46 AM
   Hydralazine - [**2122-3-2**] 03:34 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-3-2**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**23**] AM
   Tmax: 37
C (98.6
   Tcurrent: 35.6
C (96.1
   HR: 74 (64 - 79) bpm
   BP: 155/48(73) {130/22(53) - 171/123(116)} mmHg
   RR: 16 (15 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 64.6 kg (admission): 65 kg
                  Total In:
                                                                  2,395 mL
                                                                     60 mL
   PO:
                                                                    720 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  1,325 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                    897 mL
                                                                    230 mL
   Urine:
                                                                    822 mL
                                                                    230 mL
   NG:
   Stool:
                                                                     75 mL
   Drains:
   Balance:
                                                                  1,498 mL
                                                                   -170 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///21/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   180 K/uL
   9.3 g/dL
   163 mg/dL
   3.3 mg/dL
   21 mEq/L
   5.1 mEq/L
   64 mg/dL
   108 mEq/L
   141 mEq/L
   29.6 %
   6.4 K/uL
        [image002.jpg]
                             [**2122-2-28**]  03:17 PM
                             [**2122-2-28**]  09:57 PM
                             [**2122-3-1**]  06:44 AM
                             [**2122-3-1**]  02:44 PM
   WBC
   7.2
   5.3
   6.4
   Hct
   27.0
   23.5
   29.6
   Plt
   [**Telephone/Fax (3) 14080**]
   Cr
   3.5
   3.2
   3.2
   3.3
   TropT
   0.08
   0.08
   Glucose
   119
   89
   87
   163
   Other labs: PT / PTT / INR:11.9/25.5/1.0, CK / CKMB /
   Troponin-T:49//0.08, Alk Phos / T Bili:/0.4, Ca++:8.2 mg/dL, Mg++:1.7
   mg/dL, PO4:5.5 mg/dL
   Assessment and Plan
   [**Age over 90 211**] y/o F with PMH of HTN, hyperlipidemia, recent possible CVA, and
   chronic kidney disease prsents with worsening SOB starting last night
   and continuing until morning. CXR with evidence of pneumonia and
   effusion.  Also with worsening renal failure and hyperkalemia.
   # Hypoxic Respiratory Distress: unclear trigger for new hypoxic
   respiratory failure. She does not wear oxygen at home, but per report
   has nighttime SOB that seems to be chronic. This seems likely to be
   orthopnea related to worsening CHF, although she does not have a hx of
   CAD or CHF. Could be pulm edema related to uncontrolled hypertension
   and had a flash episode last night. CXR also concerning for RLL
   pneumonia, and she does have hx of recent CVA and could be aspirating.
   Other etiology on the differential could be PE as she was hospitalized
   recently, but no leg swelling and has been ambulating at home.
   - Continue to wean O2 as tolerated
   - treat for HAP as below (vanc/cefepime)
   - TTE today
   # PNA: has RLL infiltrate on CXR.  No leukocytosis, although higher
   than her baseline.  No history of fevers or chills.  Has recently been
   in rehab.  Has no signs of sepsis related to PNA. Legionella urinary
   antigen negative.
   - treat for HAP with vanco/cefepime for now
   - Vanc level 10.3 this AM, change to [**Hospital1 7**] and check level tomorrow
   - consider flagyl if patient decompensates for anaerobic coverage and
   treatment of potential chronic aspiration
   # CHF/Effusion: has what looks like R sided pleural effusion and
   evidence of fluid overload on CXR. Has decreased breath sounds on the
   R, but few crackles. Could either be related to heart failure, which
   seems feasible given her hx of orthopnea. Or could be a parapneumonic
   effusion.
   - TTE in AM
   - would hold on diuresis given ARF and is likely dry
   # HTN: Unclear baseline BP but last progress note says BP 130/70.
   Hypertensive on admission, possibly contributing to edema leading to
   worsening SOB.  Started on nitro gtt in the ED, weaned off overnight.
   On atenolol and amlodipine at home for BP control. Restarted amlodipine
   - Check HR in PM; if tolerates may consider Lopressor given
   hypertension requiring nitro drip yesterday. HR in 50s now.
   # Acute on chronic Renal Failure: Cr of 3.2 from 3.3 yesterday from a
   baseline in the mid 2s earlier this year.  This may be her new baseline
   or may represent some mild pre-renal changes in the setting of an
   infection.
   - Fluid challenge today (500cc), then restart diet
   - would hold on diuresis now, but would also be gentle with IVFs given
   her potential CHF and new effusion
   - [**Hospital1 7**] lytes, re-check Creatinine in PM
   - will add on Ca/Mg/Phos, Phos okay now.
   - contact outpatient nephrologist, consider renal consult
   # Hyperkalemia: K+ at 4.8 from 6.1 in setting of acute on chronic renal
   failure.
   - F/u PM lytes to ensure stable potassium
   # CVA/TIA history: has hx of questionable CVA in [**Month (only) 25**], although no
   obvious evidence on imaging per prior notes.
   - PT
   # FEN: IVF, replete electrolytes
   -          Start on clears, ADAT
   -          500cc fluid challenge today as above
   # Prophylaxis: Subcutaneous heparin
   # Access: peripherals
   # Communication: Patient and daughter [**Name (NI) **] (HCP) [**Telephone/Fax (1) 14075**]
   # Code:  Full (discussed with patient)
   # Disposition: ICU today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2122-2-28**] 01:05 PM
   20 Gauge - [**2122-2-28**] 01:07 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2122-03-02 09:48:00 Physician Attending Progress Note
Chief Complaint: Pneumonia, Hypoxemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Reporting pain her hands from baseline arthritis
   24 Hour Events:
   Continues to desat significantly on her R side
   History obtained from [**Hospital 15**] Medical records, icu team
   Allergies:
   Iodine
   Rash;
   Lipitor (Oral) (Atorvastatin Calcium)
   Arthralgia/Arth
   Last dose of Antibiotics:
   Vancomycin - [**2122-3-1**] 11:34 AM
   Cefipime - [**2122-3-1**] 10:04 PM
   Infusions:
   Other ICU medications:
   Hydralazine - [**2122-3-2**] 03:34 AM
   Heparin Sodium (Prophylaxis) - [**2122-3-2**] 08:42 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Respiratory: Dyspnea
   Musculoskeletal: Joint pain
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2122-3-2**] 09:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**23**] AM
   Tmax: 36.1
C (97
   Tcurrent: 35.6
C (96.1
   HR: 76 (64 - 79) bpm
   BP: 162/46(78) {130/22(53) - 171/123(116)} mmHg
   RR: 18 (15 - 26) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 64.6 kg (admission): 65 kg
                  Total In:
                                                                  2,395 mL
                                                                    150 mL
   PO:
                                                                    720 mL
                                                                    150 mL
   TF:
   IVF:
                                                                  1,325 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                    897 mL
                                                                    230 mL
   Urine:
                                                                    822 mL
                                                                    230 mL
   NG:
   Stool:
                                                                     75 mL
   Drains:
   Balance:
                                                                  1,498 mL
                                                                    -80 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///20/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: R > L)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, conversive
   Labs / Radiology
   10.4 g/dL
   187 K/uL
   103 mg/dL
   3.3 mg/dL
   20 mEq/L
   5.2 mEq/L
   61 mg/dL
   110 mEq/L
   142 mEq/L
   32.1 %
   10.9 K/uL
        [image002.jpg]
                             [**2122-2-28**]  03:17 PM
                             [**2122-2-28**]  09:57 PM
                             [**2122-3-1**]  06:44 AM
                             [**2122-3-1**]  02:44 PM
                             [**2122-3-2**]  08:15 AM
   WBC
   7.2
   5.3
   6.4
   10.9
   Hct
   27.0
   23.5
   29.6
   32.1
   Plt
   [**Telephone/Fax (3) 14096**]87
   Cr
   3.5
   3.2
   3.2
   3.3
   3.3
   TropT
   0.08
   0.08
   Glucose
   119
   89
   87
   163
   103
   Other labs: PT / PTT / INR:11.9/25.5/1.0, CK / CKMB /
   Troponin-T:49//0.08, Alk Phos / T Bili:/0.4, Ca++:8.4 mg/dL, Mg++:1.8
   mg/dL, PO4:5.4 mg/dL
   Assessment and Plan
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPERTENSION, BENIGN
   [**Age over 90 **] yo woman COPD, complicated medical history who is admitted to the
   ICU with RLL pneumonia with hypoxemia
   1. Pneumonia: Cont vanc by level plus cefepime.  Continues to have
   significant desaturation when lying on R side.
   2. Hypoxemia: TTE today.
   3. Acute renal failure: Cr not showing further improvement toward
   baseline
   4. Metabolic acidosis: Mild - cont to monitor
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2122-2-28**] 01:05 PM
   20 Gauge - [**2122-2-28**] 01:07 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2122-03-03 07:44:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO
   At [**2122-3-2**] 02:00 PMPt UOP dropped, gave 500 cc bolus, and responded.
   Pt had Echo done which showed severe tricuspid regurg, and pulmonary
   arterial hypertension. EF 65%.
   Allergies:
   Iodine
   Rash;
   Lipitor (Oral) (Atorvastatin Calcium)
   Arthralgia/Arth
   Last dose of Antibiotics:
   Vancomycin - [**2122-3-1**] 11:34 AM
   Cefipime - [**2122-3-2**] 11:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2122-3-3**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-3-3**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**23**] AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.1
C (96.9
   HR: 81 (64 - 85) bpm
   BP: 129/47(60) {95/25(53) - 162/75(85)} mmHg
   RR: 20 (13 - 29) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 64.6 kg (admission): 65 kg
             Total In:
                                                                  1,560 mL
                                                                     50 mL
   PO:
                                                                    510 mL
             TF:
   IVF:
                                                                  1,050 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                    521 mL
                                                                    157 mL
   Urine:
                                                                    521 mL
                                                                    157 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,039 mL
                                                                   -107 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///21/
   [image002.jpg]
   Physical Examination
   Gen: AOX3, moderate distress
   HEENT: MMM
   Resp: coarse upper airway sounds, scattered crackles, no wheezes
   Cards: RRR no m/r/g
   Abd: somewhat distended, non-tender, ostomy output greenish
   Ext: WWP, trace edema in legs bilaterally, right upper arm swollen with
   ecchymoses
   Labs / Radiology
   155 K/uL
   9.5 g/dL
   117 mg/dL
   3.3 mg/dL
   21 mEq/L
   5.0 mEq/L
   59 mg/dL
   108 mEq/L
   140 mEq/L
   30.7 %
   11.5 K/uL
        [image004.jpg]
                             [**2122-2-28**]  03:17 PM
                             [**2122-2-28**]  09:57 PM
                             [**2122-3-1**]  06:44 AM
                             [**2122-3-1**]  02:44 PM
                             [**2122-3-2**]  08:15 AM
                             [**2122-3-3**]  01:54 AM
   WBC
   7.2
   5.3
   6.4
   10.9
   11.5
   Hct
   27.0
   23.5
   29.6
   32.1
   30.7
   Plt
   [**Telephone/Fax (3) 14096**]87
   155
   Cr
   3.5
   3.2
   3.2
   3.3
   3.3
   3.3
   TropT
   0.08
   0.08
   Glucose
   119
   89
   87
   163
   103
   117
   Other labs: PT / PTT / INR:11.9/25.5/1.0, CK / CKMB /
   Troponin-T:49//0.08, Alk Phos / T Bili:/0.4, Ca++:8.3 mg/dL, Mg++:1.6
   mg/dL, PO4:5.7 mg/dL
   ECHO: LVEF 65%. The left atrium is mildly dilated. No atrial septal
   defect is seen by 2D or color Doppler. There is mild symmetric left
   ventricular hypertrophy. The left ventricular cavity size is normal.
   Regional left ventricular wall motion is normal. There is no
   ventricular septal defect. The right ventricular cavity is mildly
   dilated with normal free wall contractility. The aortic valve leaflets
   are moderately thickened. There is mild aortic valve stenosis (valve
   area 1.2-1.9cm2). No aortic regurgitation is seen. The mitral valve
   leaflets are mildly thickened. Mild to moderate ([**12-13**]+) mitral
   regurgitation is seen. The left ventricular inflow pattern suggests
   impaired relaxation. The tricuspid valve leaflets are mildly thickened.
   Moderate to severe [3+] tricuspid regurgitation is seen. There is
   severe pulmonary artery systolic hypertension. There is no pericardial
   effusion.
   Assessment and Plan
   [**Age over 90 211**] y/o F with PMH of HTN, hyperlipidemia, recent possible CVA, and
   chronic kidney disease presents with worsening SOB starting last night
   and continuing until morning. CXR with evidence of pneumonia and
   effusion.  Also with worsening renal failure and hyperkalemia.
   # Hypoxic Respiratory Distress: new worsening hypoxic respiratory
   failure. Pt without O2 requirement at home but some history of
   nighttime SOB that seems to be chronic. PNA vs Orthopnea [**1-13**] worsening
   CHF. CXR concerning for RLL pneumonia and has hx of recent CVA and
   could be aspirating. No leukocytosis at first but now climbing. No
   fever or chills.  No h/o CAD or CHF, but has likely R sided pleural
   effusion concerning for parapneumonic effusion, and some evidence of
   fluid overload on CXR.   Bedside ultrasound on [**3-3**] shows a R sided
   effusion, but not large enough to tap without danger of lung injury.
   Has decreased breath sounds on the R, but few crackles. New echo with
   severe TR and pulm artery HTN. Other etiology on the differential could
   be PE as she was hospitalized recently, but no leg swelling and has
   been ambulating at home.
   - Continue to wean O2 as tolerated
   - treat for HAP with vanc to level and cefepime, today = day 4 of 7 day
   course
   - Adding ciprofloxacin for double GN coverage for HAP
   # Pulmonary Hypertension: seen on echo [**3-2**].  Likely related to COPD
   history.
   - Continue on current regimen
   # HTN: Unclear baseline BP but last progress note says BP 130/70.
   Hypertensive on admission, possibly contributing to edema leading to
   worsening SOB.  Started on nitro gtt in the ED, weaned off overnight.
   On atenolol and amlodipine at home for BP control. Restarted amlodipine
   - Restarted Metoprolol yesterday
   - Will maintain on current regimen today
   # Acute on chronic Renal Failure: Cr appearing stable at 3.3 vs
   baseline in the mid 2s earlier this year. Possibly new baseline vs
   acute pre-renal etiology
 FEUrea borderline pre-renal.  Developing PNA
   could be causing her to be volume down.
   -          continue to to trend, f/u urine lytes
   -          support with IVF for goal of 1L positive today
   # Hyperkalemia: K+ at 5.0 from 6.1 in setting of acute on chronic renal
   failure.
   - F/u PM lytes to ensure stable potassium
   # CVA/TIA history: has hx of questionable CVA in [**Month (only) 25**], although no
   obvious evidence on imaging per prior notes.
   - PT once able
   # FEN: IVF, replete electrolytes
   -          Start on clears, ADAT
   -          500cc fluid challenge today as above
   # Prophylaxis: Subcutaneous heparin
   # Access: peripherals, needs PICC today
   18 Gauge - [**2122-2-28**] 01:05 PM
   20 Gauge - [**2122-2-28**] 01:07 PM
   # Communication: Patient and daughter [**Name (NI) **] (HCP) [**Telephone/Fax (1) 14075**]
   # Code:  Full (discussed with patient)
   # Disposition: ICU today, consider call out in afternoon

2122-03-03 11:34:00 Physician Attending Progress Note
Chief Complaint: Hypoxemia, RLL pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Still desatting when lying on R side but she is feeling comfortable
   Reports ongoing hand/arm pain
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2122-3-2**] 02:00 PM - mod-severe TR, severe
   PA-HTN, EF 60-65%
   500cc saline overnight for dropping urine output
   History obtained from [**Hospital 15**] Medical records, icu team
   Allergies:
   Iodine
   Rash;
   Lipitor (Oral) (Atorvastatin Calcium)
   Arthralgia/Arth
   Last dose of Antibiotics:
   Vancomycin - [**2122-3-1**] 11:34 AM
   Cefipime - [**2122-3-2**] 11:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2122-3-3**] 12:00 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Respiratory: No(t) Dyspnea
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2122-3-3**] 11:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**23**] AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.9
C (96.6
   HR: 80 (68 - 85) bpm
   BP: 157/48(81) {95/25(53) - 157/75(85)} mmHg
   RR: 21 (13 - 29) insp/min
   SpO2: 95%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 64.6 kg (admission): 65 kg
             Total In:
                                                                  1,560 mL
                                                                    170 mL
   PO:
                                                                    510 mL
             TF:
             120 mL
   IVF:
                                                                  1,050 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                    521 mL
                                                                    217 mL
   Urine:
                                                                    521 mL
                                                                    217 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,039 mL
                                                                    -47 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///21/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: at R base)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.5 g/dL
   155 K/uL
   117 mg/dL
   3.3 mg/dL
   21 mEq/L
   5.0 mEq/L
   59 mg/dL
   108 mEq/L
   140 mEq/L
   30.7 %
   11.5 K/uL
        [image002.jpg]
                             [**2122-2-28**]  03:17 PM
                             [**2122-2-28**]  09:57 PM
                             [**2122-3-1**]  06:44 AM
                             [**2122-3-1**]  02:44 PM
                             [**2122-3-2**]  08:15 AM
                             [**2122-3-3**]  01:54 AM
   WBC
   7.2
   5.3
   6.4
   10.9
   11.5
   Hct
   27.0
   23.5
   29.6
   32.1
   30.7
   Plt
   [**Telephone/Fax (3) 14096**]87
   155
   Cr
   3.5
   3.2
   3.2
   3.3
   3.3
   3.3
   TropT
   0.08
   0.08
   Glucose
   119
   89
   87
   163
   103
   117
   Other labs: PT / PTT / INR:11.9/25.5/1.0, CK / CKMB /
   Troponin-T:49//0.08, Alk Phos / T Bili:/0.4, Ca++:8.3 mg/dL, Mg++:1.6
   mg/dL, PO4:5.7 mg/dL
   Assessment and Plan
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPERTENSION, BENIGN
   [**Age over 90 **] yo woman COPD, complicated medical history who is admitted to the
   ICU with RLL pneumonia with hypoxemia, slow to improve.  CXR has
   worsened RLL infiltrate today.  Did another bedside ultrasound with
   patient sitting up -while there is a small effusion, it is too small to
   safely tap and does not appear organized.
   1. Pneumonia: Cont vanc by level plus cefepime.  Will start additional
   gram negative coverage -
   2. Hypoxemia: TTE shows significant PA-HTN - could be [**1-13**] COPD.
   3. Acute renal failure: Cr has leveled off - her urine output continues
   to be intermittently poor.
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2122-2-28**] 01:05 PM
   20 Gauge - [**2122-2-28**] 01:07 PM
   Comments: plan for PICC line today
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:

2122-03-04 07:09:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Went for PICC. Brief desat after PICC but quickly resolved with
   repositioning, 97% on 4L at 7pm. Started on sevelemer and sodium
   bicarb.
   This morning at 11am, pt. acutely desaturated with increased WOB.  Had
   decreased urine output overnight/this morning.
   Allergies:
   Iodine
   Rash;
   Lipitor (Oral) (Atorvastatin Calcium)
   Arthralgia/Arth
   Last dose of Antibiotics:
   Vancomycin - [**2122-3-3**] 12:24 PM
   Cefipime - [**2122-3-3**] 10:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2122-3-3**] 11:46 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-3-4**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**23**] AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (97
   HR: 72 (59 - 80) bpm
   BP: 129/45(65) {95/34(50) - 174/58(87)} mmHg
   RR: 23 (14 - 27) insp/min
   SpO2: 90%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 64.6 kg (admission): 65 kg
             Total In:
                                                                  1,685 mL
                                                                    416 mL
   PO:
                                                                    240 mL
             TF:
                                                                    120 mL
   IVF:
                                                                  1,325 mL
                                                                    416 mL
   Blood products:
   Total out:
                                                                    376 mL
                                                                    315 mL
   Urine:
                                                                    376 mL
                                                                    115 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,309 mL
                                                                    101 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 90%
   ABG: ///21/
   Physical Examination
   Gen: AOX3, moderate distress
   HEENT: MMM
   Resp: coarse upper airway sounds, scattered crackles, no wheezes
   Cards: RRR no m/r/g
   Abd: somewhat distended, non-tender, ostomy output greenish
   Ext: WWP, trace edema in legs bilaterally, right upper arm swollen with
   ecchymoses
   Labs / Radiology
   149 K/uL
   8.8 g/dL
   144 mg/dL
   3.1 mg/dL
   21 mEq/L
   5.1 mEq/L
   57 mg/dL
   109 mEq/L
   140 mEq/L
   27.9 %
   10.0 K/uL
        [image002.jpg]
                             [**2122-2-28**]  03:17 PM
                             [**2122-2-28**]  09:57 PM
                             [**2122-3-1**]  06:44 AM
                             [**2122-3-1**]  02:44 PM
                             [**2122-3-2**]  08:15 AM
                             [**2122-3-3**]  01:54 AM
                             [**2122-3-3**]  10:07 PM
   WBC
   7.2
   5.3
   6.4
   10.9
   11.5
   10.0
   Hct
   27.0
   23.5
   29.6
   32.1
   30.7
   27.9
   Plt
   [**Telephone/Fax (3) 14096**]87
   155
   149
   Cr
   3.5
   3.2
   3.2
   3.3
   3.3
   3.3
   3.1
   TropT
   0.08
   0.08
   Glucose
   119
   89
   87
   163
   103
   117
   144
   Other labs: PT / PTT / INR:11.5/27.8/1.0, CK / CKMB /
   Troponin-T:49//0.08, Alk Phos / T Bili:/0.4, Ca++:8.1 mg/dL, Mg++:2.2
   mg/dL, PO4:6.0 mg/dL
                                                                [**2122-3-3**]
                                                                    10:07p
   _______________________________________________________________________
   Source: Line-PICC
                                     140
                               [image004.gif]
                                     109
                               [image004.gif]
                                     57
   [image006.gif]
   144
                                                                   AGap=15
   [image007.gif]
   5.1
                               [image004.gif]
                                     21
                               [image004.gif]
                                     3.1
   [image009.gif]
   Comments:
   Glucose: If Fasting, 70-100 Normal, >125 Provisional Diabetes
   Ca: 8.1 Mg: 2.2 P: 6.0
   Source: Line-PICC
   91
                                                                      10.0
                                                            [image009.gif]
                                     8.8
   [image006.gif]
   149
                 [image010.gif]
   [image006.gif]
                                    27.9
   [image009.gif]
   Source: [**Name (NI) 12621**]
   PT: 11.5
   PTT: 27.8
   INR: 1.0
   [image012.jpg]
   Assessment and Plan
   [**Age over 90 211**] y/o F with PMH of HTN, hyperlipidemia, recent possible CVA, and
   chronic kidney disease presents with worsening SOB starting last night
   and continuing until morning. CXR with evidence of pneumonia and
   effusion.  Also with worsening renal failure and hyperkalemia.
   # Hypoxic Respiratory Distress: new worsening hypoxic respiratory
   failure with recent history of nighttime SOB that seems to be chronic.
   PNA vs Orthopnea [**1-13**] worsening CHF but CXR concerning for RLL
   pneumonia. No leukocytosis at first but now borderline. No fever or
   chills.  No h/o CAD or CHF, but has likely R sided pleural effusion
   concerning for parapneumonic effusion, and some evidence of fluid
   overload on CXR.   Bedside ultrasound on [**3-3**] shows a R sided effusion,
   but not large enough to tap without danger of lung injury. Has
   decreased breath sounds on the R, but few crackles. New echo with
   severe TR and pulm artery HTN. Other etiology on the differential could
   be PE as she was hospitalized recently, but no leg swelling and has
   been ambulating at home.  Pt. had acute hypoxia in the morning of [**3-4**].
   - F/U stat CXR and ABG
   - Lasix one time dose
   - check EKG
   - Continue to wean O2 as tolerated
   - treat for HAP with vanc to level and cefepime, today = day 4 of 7 day
   course
   - Continue ciprofloxacin for double GN coverage for HAP
   # HTN: Unclear baseline BP but last progress note says BP 130/70.
   Hypertensive on admission, possibly contributing to edema leading to
   worsening SOB.  Started on nitro gtt in the ED, weaned off overnight.
   On atenolol and amlodipine at home for BP control. Restarted amlodipine
   - Continue Metoprolol
   - Continue current regimen
   # Acute on chronic Renal Failure: Cr slightly improved at 3.1 from 3.3
   yesterday with more fluids, recent baseline in the mid 2s earlier this
   year. Possibly new baseline vs acute pre-renal etiology.  FENa
   yesterday was 1.2% (equivocal)
   - goal negative 500cc today
   - aim to reach goal with POs alone, supplement if needed
   - restarting NaHCO3 for chronic renal acidosis, HCO3s hovering around
   21 recently
   # Hyperphospatemia: [**1-13**] ARF
   - start sevelamer
   - low phosphorous diet
   - pt to f/u with outpatient renal
   # Hyperkalemia: K+ at 5.1 from 6.1on admission in setting of acute on
   chronic renal failure.
   - check PM lytes
   # Pulmonary Hypertension: seen on echo [**3-2**].  No history of COPD or
   other documented lung disease.
   -          Continue on current regimen
   -          - Will need outpatient pulmonologist
   # CVA/TIA history: has hx of questionable CVA in [**Month (only) 25**], although no
   obvious evidence on imaging per prior notes.
   - PT once able
   # FEN: IVF, replete electrolytes
    -low phosph, low potassium diet
    -IVF only if needed to maintain fluid goal as above
   # Prophylaxis: Subcutaneous heparin
   # Access: peripherals, PICC [**2122-3-3**]
    18 Gauge - [**2122-2-28**] 01:05 PM
    20 Gauge - [**2122-2-28**] 01:07 PM
   # Communication: Patient and daughter [**Name (NI) **] (HCP) [**Telephone/Fax (1) 14075**]
   # Code:  Full (discussed with patient)
   # Disposition: call out to floor

2122-03-04 11:36:00 Physician Attending Progress Note
Chief Complaint: Hyoxemia, Pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   feels more sob this AM
   24 Hour Events:
 PICC LINE - START [**2122-3-3**] 05:30 PM
   Desat this AM with increase work of brathing --> sats improved to high
   90s on 100% NRB
   History obtained from [**Hospital 15**] Medical records, icu team
   Allergies:
   Iodine
   Rash;
   Lipitor (Oral) (Atorvastatin Calcium)
   Arthralgia/Arth
   Last dose of Antibiotics:
   Vancomycin - [**2122-3-3**] 12:24 PM
   Cefipime - [**2122-3-3**] 10:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2122-3-4**] 08:24 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Respiratory: Dyspnea
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2122-3-4**] 11:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**23**] AM
   Tmax: 36.1
C (97
   Tcurrent: 35.6
C (96
   HR: 73 (59 - 76) bpm
   BP: 113/33(54) {95/33(50) - 174/58(87)} mmHg
   RR: 24 (14 - 27) insp/min
   SpO2: 97%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 64.6 kg (admission): 65 kg
             Total In:
                                                                  1,685 mL
                                                                    577 mL
   PO:
                                                                    240 mL
             TF:
                                                                    120 mL
   IVF:
                                                                  1,325 mL
                                                                    457 mL
   Blood products:
   Total out:
                                                                    376 mL
                                                                    385 mL
   Urine:
                                                                    376 mL
                                                                    185 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,309 mL
                                                                    192 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, High flow neb
   SpO2: 97%
   ABG: ///21/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bibasilarly)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, conversive
   Labs / Radiology
   8.8 g/dL
   149 K/uL
   144 mg/dL
   3.1 mg/dL
   21 mEq/L
   5.1 mEq/L
   57 mg/dL
   109 mEq/L
   140 mEq/L
   27.9 %
   10.0 K/uL
        [image002.jpg]
                             [**2122-2-28**]  03:17 PM
                             [**2122-2-28**]  09:57 PM
                             [**2122-3-1**]  06:44 AM
                             [**2122-3-1**]  02:44 PM
                             [**2122-3-2**]  08:15 AM
                             [**2122-3-3**]  01:54 AM
                             [**2122-3-3**]  10:07 PM
   WBC
   7.2
   5.3
   6.4
   10.9
   11.5
   10.0
   Hct
   27.0
   23.5
   29.6
   32.1
   30.7
   27.9
   Plt
   [**Telephone/Fax (3) 14096**]87
   155
   149
   Cr
   3.5
   3.2
   3.2
   3.3
   3.3
   3.3
   3.1
   TropT
   0.08
   0.08
   Glucose
   119
   89
   87
   163
   103
   117
   144
   Other labs: PT / PTT / INR:11.5/27.8/1.0, CK / CKMB /
   Troponin-T:49//0.08, Alk Phos / T Bili:/0.4, Ca++:8.1 mg/dL, Mg++:2.2
   mg/dL, PO4:6.0 mg/dL
   Assessment and Plan
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPERTENSION, BENIGN
   [**Age over 90 **] yo woman COPD, complicated medical history who is admitted to the
   ICU with RLL pneumonia with hypoxemia, slow to improve.  CXR looks
   better this AM, though she had an episode of desaturation later in the
   AM.
   1. Pneumonia: Cont vanc by level, cefepime, cipro.  Repeat CXR
   unchanged
   2. Hypoxemia: Ongoing - wean O2 again as tolerated.  Desat this AM
   could again be position related due to shunting through RLL.  PA-HTN on
   echo
   3. Acute renal failure: Cr trending down.  oral bicarb restarted
   yesterday
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2122-3-3**] 05:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 34 minutes
   Patient is critically ill

2122-03-05 07:25:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Pt. had acute desaturation to 80s during rounds with increased SOB.
   Stat CXR done which showed maybe some worsening. Added 80% face mask to
   her 5LNC with improvement in oxygenation. Her breathing became less
   labored.  She was weaned back to 5L NC. BNP elevated, but in the
   setting of her somewhat worsening renal failure she was not further
   diuresed. She had a repeat EKG for K of 5.5 without evidence of peaked
   T waves.
   Allergies:
   Iodine
   Rash;
   Lipitor (Oral) (Atorvastatin Calcium)
   Arthralgia/Arth
   Last dose of Antibiotics:
   Vancomycin - [**2122-3-3**] 12:24 PM
   Ciprofloxacin - [**2122-3-4**] 11:00 AM
   Cefipime - [**2122-3-4**] 10:27 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2122-3-4**] 11:15 AM
   Heparin Sodium (Prophylaxis) - [**2122-3-5**] 12:41 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-3-5**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**23**] AM
   Tmax: 35.7
C (96.3
   Tcurrent: 35.6
C (96.1
   HR: 74 (58 - 74) bpm
   BP: 128/45(67) {98/33(49) - 139/68(80)} mmHg
   RR: 27 (11 - 27) insp/min
   SpO2: 97%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 71 kg (admission): 65 kg
             Total In:
                                                                  1,159 mL
                                                                    314 mL
   PO:
             TF:
   IVF:
                                                                    679 mL
                                                                     74 mL
   Blood products:
   Total out:
                                                                    531 mL
                                                                     57 mL
   Urine:
                                                                    331 mL
                                                                     57 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    628 mL
                                                                    257 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 97%
   ABG: ///21/
   Physical Examination
   Gen: AOX3, NAD
   HEENT: MMM
   Resp: only faint scattered crackles, no wheezes
   Cards: RRR, systolic murmur, no rubs/gallops
   Abd: somewhat distended, non-tender, ostomy output greenish
   Ext: WWP, trace edema in legs bilaterally, right upper arm less swollen
   than before, with ecchymoses
   Labs / Radiology
   139 K/uL
   8.7 g/dL
   110 mg/dL
   3.4 mg/dL
   21 mEq/L
   5.7 mEq/L
   60 mg/dL
   108 mEq/L
   139 mEq/L
   27.9 %
   7.1 K/uL
        [image002.jpg]
                             [**2122-2-28**]  03:17 PM
                             [**2122-2-28**]  09:57 PM
                             [**2122-3-1**]  06:44 AM
                             [**2122-3-1**]  02:44 PM
                             [**2122-3-2**]  08:15 AM
                             [**2122-3-3**]  01:54 AM
                             [**2122-3-3**]  10:07 PM
                             [**2122-3-4**]  03:26 PM
                             [**2122-3-5**]  02:30 AM
   WBC
   7.2
   5.3
   6.4
   10.9
   11.5
   10.0
   7.1
   Hct
   27.0
   23.5
   29.6
   32.1
   30.7
   27.9
   27.9
   Plt
   [**Telephone/Fax (3) 14096**]87
   155
   149
   139
   Cr
   3.5
   3.2
   3.2
   3.3
   3.3
   3.3
   3.1
   3.3
   3.4
   TropT
   0.08
   0.08
   Glucose
   119
   89
   87
   163
   103
   117
   144
   106
   110
   Other labs: PT / PTT / INR:10.8/27.0/0.9, CK / CKMB /
   Troponin-T:49//0.08, Alk Phos / T Bili:/0.4, Lactic Acid:0.7 mmol/L,
   Ca++:8.4 mg/dL, Mg++:2.2 mg/dL, PO4:6.9 mg/dL
   [**2122-3-5**]
   02:30a
   Ca: 8.4 Mg: 2.2 P: 6.9
   Source: [**Name (NI) 12621**]
   PT: 10.8
   PTT: 27.0
   INR: 0.9
   [**2122-3-4**]
   3:26p
   [image003.[**Year (4 digits) **]]
   Random
   140
   [dot.[**Year (4 digits) **]]
   107
   [dot.[**Year (4 digits) **]]
   58
   [dr.[**Last Name (STitle) **]]
   106
                                                                   AGap=18
   [dot.[**Last Name (STitle) **]]
   5.5
   [dot.[**Last Name (STitle) **]]
   21
   [dot.[**Last Name (STitle) **]]
   3.3
   [dl.[**Last Name (STitle) **]]
   Comments:
   Glucose: If Fasting, 70-100 Normal, >125 Provisional Diabetes
   Ca: 8.4 Mg: 2.3 P: 6.7
   Other Blood Chemistry:
   Vanco: 25.6
   [**2122-3-4**]
   11:37a [image003.[**Year (4 digits) **]]
   pH
   7.23
   pCO2
   52
   pO2
   44
   HCO3
   23
   BaseXS
   -6
   BNP: [**Numeric Identifier 14168**]
   Assessment and Plan
   [**Age over 90 211**] y/o F with PMH of HTN, hyperlipidemia, recent possible CVA, and
   chronic kidney disease presents with worsening SOB starting last night
   and continuing until morning. CXR with evidence of pneumonia and
   effusion.  Also with worsening renal failure and hyperkalemia.
   # Hypoxic Respiratory Distress: new worsening hypoxic respiratory
   failure with recent history of nighttime SOB that seems to be chronic.
   PNA vs Orthopnea [**1-13**] worsening CHF but CXR concerning for RLL
   pneumonia. No leukocytosis at first but now borderline. No fever or
   chills.  No h/o CAD or CHF, but has likely R sided pleural effusion
   concerning for parapneumonic effusion, and some evidence of fluid
   overload on CXR.   Bedside ultrasound on [**3-3**] shows a R sided effusion,
   but not large enough to tap without danger of lung injury. Has
   decreased breath sounds on the R, but few crackles. New echo with
   severe TR and pulm artery HTN. Other etiology on the differential could
   be PE as she was hospitalized recently, but no leg swelling and has
   been ambulating at home.  Pt. had acute hypoxia in the morning of [**3-4**]
   treated with lasix with some improvement but deteriorating renal
   function.
   - Will consider non-contrast CT later in the day if able to tolerate,
   but suspect that she will not be able to
   - no more lasix for now
   - Continue to wean O2 as tolerated
   - treat for HAP with vanc to level and cefepime, today = day 4 of 7 day
   course
   - Continue ciprofloxacin for double GN coverage for HAP
   .
   # Acute on chronic Renal Failure: Cr 3.4 this AM after mild diuresis
   this AM, recent baseline in the mid 2s earlier this year. Possibly new
   baseline vs acute pre-renal etiology.  FENa yesterday was 1.2%
   (equivocal)
   - No diuresis today
   - aim to reach goal with POs alone, supplement if needed
   - restarting NaHCO3 for chronic renal acidosis, HCO3s hovering around
   21 recently
   - Will consult renal this AM for etiology of acute on chronic kidney
   injury
   .
   # HTN: Unclear baseline BP but last progress note says BP 130/70.
   Hypertensive on admission, possibly contributing to edema leading to
   worsening SOB.  Started on nitro gtt in the ED, weaned off overnight.
   On atenolol and amlodipine at home for BP control. Restarted amlodipine
   - Continue Metoprolol
   - Continue current regimen
   .
   # Hyperphospatemia: [**1-13**] ARF
   - start sevelamer
   - low phosphorous diet
   - pt to f/u with outpatient renal
   # Hyperkalemia: K+ at 5.1 from 6.1on admission in setting of acute on
   chronic renal failure.
   - Kayexelate given this AM
   - [**Hospital1 7**] lytes
   .
   # Pulmonary Hypertension: seen on echo [**3-2**].  No history of COPD or
   other documented lung disease.
    - Continue on current regimen
    - Will need outpatient pulmonologist
   # CVA/TIA history: has hx of questionable CVA in [**Month (only) 25**], although no
   obvious evidence on imaging per prior notes.
   - PT once able
   # FEN: IVF, replete electrolytes
    -low phosph, low potassium diet
    -IVF only if needed to maintain fluid goal as above
   # Prophylaxis: Subcutaneous heparin
   # Access: peripherals, PICC [**2122-3-3**]
    18 Gauge - [**2122-2-28**] 01:05 PM
    20 Gauge - [**2122-2-28**] 01:07 PM
   # Communication: Patient and daughter [**Name (NI) **] (HCP) [**Telephone/Fax (1) 14075**]
   # Code:  Full (discussed with patient)
   # Disposition: stay in ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2122-3-3**] 05:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2122-03-05 18:43:00 Physician Attending Progress Note
Chief Complaint: RLL pneumonia, Hypoxemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Pt without complaints but getting more confused
   24 Hour Events:
 EKG - At [**2122-3-4**] 08:27 PM
   Urine output starting to drop and Cr not trending down
   History obtained from [**Hospital 15**] Medical records, icu team
   Allergies:
   Iodine
   Rash;
   Lipitor (Oral) (Atorvastatin Calcium)
   Arthralgia/Arth
   Trazamine (Oral) (Trazodone Hcl/Diet8)
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2122-3-3**] 12:24 PM
   Ciprofloxacin - [**2122-3-4**] 11:00 AM
   Cefipime - [**2122-3-4**] 10:27 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2122-3-5**] 08:00 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Respiratory: Dyspnea
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2122-3-5**] 06:42 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**23**] AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.1
C (97
   HR: 77 (58 - 83) bpm
   BP: 131/36(60) {98/34(49) - 136/68(80)} mmHg
   RR: 23 (15 - 27) insp/min
   SpO2: 92%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 71 kg (admission): 65 kg
   Height: 59 Inch
             Total In:
                                                                  1,159 mL
                                                                  1,716 mL
   PO:
             TF:
   IVF:
                                                                    679 mL
                                                                    436 mL
   Blood products:
   Total out:
                                                                    531 mL
                                                                    717 mL
   Urine:
                                                                    331 mL
                                                                    167 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    628 mL
                                                                    999 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///23/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: scattered b/l)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, slightly confused
   but redirectable
   Labs / Radiology
   8.7 g/dL
   166 K/uL
   110 mg/dL
   3.6 mg/dL
   23 mEq/L
   5.5 mEq/L
   60 mg/dL
   108 mEq/L
   140 mEq/L
   28.1 %
   6.6 K/uL
        [image002.jpg]
                             [**2122-2-28**]  03:17 PM
                             [**2122-2-28**]  09:57 PM
                             [**2122-3-1**]  06:44 AM
                             [**2122-3-1**]  02:44 PM
                             [**2122-3-2**]  08:15 AM
                             [**2122-3-3**]  01:54 AM
                             [**2122-3-3**]  10:07 PM
                             [**2122-3-4**]  03:26 PM
                             [**2122-3-5**]  02:30 AM
                             [**2122-3-5**]  03:37 PM
   WBC
   7.2
   5.3
   6.4
   10.9
   11.5
   10.0
   7.1
   6.6
   Hct
   27.0
   23.5
   29.6
   32.1
   30.7
   27.9
   27.9
   28.1
   Plt
   [**Telephone/Fax (3) 14096**]87
   155
   149
   139
   166
   Cr
   3.5
   3.2
   3.2
   3.3
   3.3
   3.3
   3.1
   3.3
   3.4
   3.6
   TropT
   0.08
   0.08
   Glucose
   119
   89
   87
   163
   103
   117
   144
   106
   110
   110
   Other labs: PT / PTT / INR:10.8/27.0/0.9, CK / CKMB /
   Troponin-T:49//0.08, Alk Phos / T Bili:/0.4, Lactic Acid:0.7 mmol/L,
   Ca++:8.3 mg/dL, Mg++:2.3 mg/dL, PO4:6.9 mg/dL
   Assessment and Plan
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPERTENSION, BENIGN
   [**Age over 90 **] yo woman COPD, complicated medical history who is admitted to the
   ICU with RLL pneumonia with hypoxemia, slow to improve.
   1. Pneumonia: Cont vanc by level, cefepime, cipro.
   2. Hypoxemia: O2 weaned stably back down to nasal cannula.  PA-HTN on
   echo
   3. Acute renal failure: Cr now coming back up and K trending up.
   Appreciate renal consult.  Pt may need dialysis if trend continues in
   this direction.
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2122-3-3**] 05:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:

2122-03-06 07:39:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Pt remained delerious through the day, thought to be related to
   trazodone also w/ ICU and ? uremia contributing. Dr. [**Name (NI) 1788**], Pt's
   outpatient nephrologist was consulted. Although initially renal fellow
   thought she was likely hypovolemic, he thought Pt was likely volume
   overloaded. He suggested holding amlodipine (which was d/c) to increase
   MAP and see if that improves UOP. He also suggested that we initiate
   discussions with the family and Pt about short-term hemodialysis.
   Although there is not currently a need for HD, if the Pt remains
   oliguric she may ultimately benefit from short term HD, if this is
   within goals of care for the family.
   Allergies:
   Iodine
   Rash;
   Lipitor (Oral) (Atorvastatin Calcium)
   Arthralgia/Arth
   Trazamine (Oral) (Trazodone Hcl/Diet8)
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2122-3-3**] 12:24 PM
   Ciprofloxacin - [**2122-3-4**] 11:00 AM
   Cefipime - [**2122-3-5**] 10:29 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2122-3-5**] 11:54 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-3-6**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**23**] AM
   Tmax: 36.4
C (97.5
   Tcurrent: 35.9
C (96.6
   HR: 118 (65 - 118) bpm
   BP: 134/53(69) {97/35(39) - 151/67(78)} mmHg
   RR: 21 (14 - 27) insp/min
   SpO2: 93%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 70.7 kg (admission): 65 kg
   Height: 59 Inch
             Total In:
                                                                  1,920 mL
                                                                    136 mL
   PO:
             TF:
   IVF:
                                                                    540 mL
                                                                     76 mL
   Blood products:
   Total out:
                                                                  1,006 mL
                                                                     61 mL
   Urine:
                                                                    256 mL
                                                                     61 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    914 mL
                                                                     75 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///22/
   Physical Examination
   Labs / Radiology
   178 K/uL
   8.1 g/dL
   108 mg/dL
   3.7 mg/dL
   22 mEq/L
   5.7 mEq/L
   61 mg/dL
   109 mEq/L
   139 mEq/L
   25.4 %
   6.3 K/uL
        [image002.jpg]
                             [**2122-2-28**]  09:57 PM
                             [**2122-3-1**]  06:44 AM
                             [**2122-3-1**]  02:44 PM
                             [**2122-3-2**]  08:15 AM
                             [**2122-3-3**]  01:54 AM
                             [**2122-3-3**]  10:07 PM
                             [**2122-3-4**]  03:26 PM
                             [**2122-3-5**]  02:30 AM
                             [**2122-3-5**]  03:37 PM
                             [**2122-3-6**]  02:04 AM
   WBC
   5.3
   6.4
   10.9
   11.5
   10.0
   7.1
   6.6
   6.3
   Hct
   23.5
   29.6
   32.1
   30.7
   27.9
   27.9
   28.1
   25.4
   Plt
   [**Telephone/Fax (3) 14181**]55
   149
   139
   166
   178
   Cr
   3.2
   3.2
   3.3
   3.3
   3.3
   3.1
   3.3
   3.4
   3.6
   3.7
   TropT
   0.08
   Glucose
   89
   87
   163
   103
   117
   144
   106
   110
   110
   108
   Other labs: PT / PTT / INR:11.9/32.2/1.0, CK / CKMB /
   Troponin-T:49//0.08, Alk Phos / T Bili:/0.4, Lactic Acid:0.7 mmol/L,
   Ca++:7.7 mg/dL, Mg++:2.2 mg/dL, PO4:7.0 mg/dL
   Assessment and Plan
   [**Age over 90 211**] y/o F with PMH of HTN, hyperlipidemia, recent possible CVA, and
   chronic kidney disease presents with worsening SOB starting last night
   and continuing until morning. CXR with evidence of pneumonia and
   effusion.  Also with worsening renal failure and hyperkalemia.
   # Hypoxic Respiratory Distress: new worsening hypoxic respiratory
   failure with recent history of nighttime SOB that seems to be chronic.
   PNA vs Orthopnea [**1-13**] worsening CHF but CXR concerning for RLL
   pneumonia. No leukocytosis at first but now borderline. No fever or
   chills.  No h/o CAD or CHF, but has likely R sided pleural effusion
   concerning for parapneumonic effusion, and some evidence of fluid
   overload on CXR.   Bedside ultrasound on [**3-3**] shows a R sided effusion,
   but not large enough to tap without danger of lung injury. Has
   decreased breath sounds on the R, but few crackles. New echo with
   severe TR and pulm artery HTN. Other etiology on the differential could
   be PE as she was hospitalized recently, but no leg swelling and has
   been ambulating at home.  Pt. had acute hypoxia in the morning of [**3-4**]
   treated with lasix with some improvement but deteriorating renal
   function.
   - Will consider non-contrast CT later in the day if able to tolerate,
   but suspect that she will not be able to
   - no more lasix for now
   - Continue to wean O2 as tolerated
   - treat for HAP with vanc to level and cefepime, today = day 5 of 7 day
   course
   - Continue ciprofloxacin for double GN coverage for HAP
   # Acute on chronic Renal Failure: Cr 3.4 this AM after mild diuresis
   this AM, recent baseline in the mid 2s earlier this year. Possibly new
   baseline vs acute pre-renal etiology.  FENa yesterday was 1.2%
   (equivocal)
   - No diuresis today
   - aim to reach goal with POs alone, supplement if needed
   - restarting NaHCO3 for chronic renal acidosis, HCO3s hovering around
   21 recently
   - will discuss possibility of short term HD with family today
   - touch base with renal re: increasing sevalamer
   # HTN: Unclear baseline BP but last progress note says BP 130/70.
   Hypertensive on admission, possibly contributing to edema leading to
   worsening SOB.  Started on nitro gtt in the ED, weaned off overnight.
   On atenolol and amlodipine at home for BP control. Restarted amlodipine
   - Continue Metoprolol
   - Continue current regimen
   # Hyperphospatemia: [**1-13**] ARF
   - touch base with renal re: increasing sevalamer
   - low phosphorous diet
   - pt to f/u with outpatient renal
   # Hyperkalemia: K+ at 5.1 from 6.1on admission in setting of acute on
   chronic renal failure.
   - Kayexelate given this AM
   - [**Hospital1 7**] lytes
   # Mental status
lucid and fully oriented, but endorses hallucinations
   of kids walking around room. Likely from prolonged ICU stay.
   - Continue to monitor mental status
   # Pulmonary Hypertension: seen on echo [**3-2**].  No history of COPD or
   other documented lung disease.
    - Continue on current regimen
    - Will need outpatient pulmonologist
   # CVA/TIA history: has hx of questionable CVA in [**Month (only) 25**], although no
   obvious evidence on imaging per prior notes.
   - PT once able
   # FEN: IVF, replete electrolytes
    -low phosph, low potassium diet
    -IVF only if needed to maintain fluid goal as above
   # Prophylaxis: Subcutaneous heparin
   # Access: peripherals, PICC [**2122-3-3**]
    18 Gauge - [**2122-2-28**] 01:05 PM
    20 Gauge - [**2122-2-28**] 01:07 PM
   # Communication: Patient and daughter [**Name (NI) **] (HCP) [**Telephone/Fax (1) 14075**]
   # Code:  Full (discussed with patient)
   # Disposition: stay in ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2122-3-3**] 05:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2122-03-06 15:52:00 Physician Attending Progress Note
Chief Complaint: Pneumonia, Hypoxemia, Acute on Chronic renal failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   No complaints this AM - confused but redirectable
   24 Hour Events:
 EKG - At [**2122-3-6**] 05:27 AM
   HD line placed by renal this AM
   History obtained from [**Hospital 15**] Medical records, icu team
   Allergies:
   Iodine
   Rash;
   Lipitor (Oral) (Atorvastatin Calcium)
   Arthralgia/Arth
   Trazamine (Oral) (Trazodone Hcl/Diet8)
   Confusion/Delir
   Last dose of Antibiotics:
   Ciprofloxacin - [**2122-3-4**] 11:00 AM
   Cefipime - [**2122-3-5**] 10:29 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2122-3-5**] 11:54 PM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Respiratory: No(t) Dyspnea
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2122-3-6**] 03:52 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**23**] AM
   Tmax: 36.1
C (97
   Tcurrent: 35.8
C (96.5
   HR: 69 (61 - 118) bpm
   BP: 164/64(88) {97/35(39) - 164/66(100)} mmHg
   RR: 19 (14 - 28) insp/min
   SpO2: 97%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 70.7 kg (admission): 65 kg
   Height: 59 Inch
             Total In:
                                                                  1,920 mL
                                                                    397 mL
   PO:
             180 mL
   TF:
   IVF:
                                                                    540 mL
                                                                    157 mL
   Blood products:
   Total out:
                                                                  1,006 mL
                                                                    111 mL
   Urine:
                                                                    256 mL
                                                                    111 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    914 mL
                                                                    286 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///22/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: scattered b/l)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): year and president but not to place, Movement:
   Not assessed, Tone: Not assessed, more confused this AM
   Labs / Radiology
   8.1 g/dL
   178 K/uL
   108 mg/dL
   3.7 mg/dL
   22 mEq/L
   5.7 mEq/L
   61 mg/dL
   109 mEq/L
   139 mEq/L
   25.4 %
   6.3 K/uL
        [image002.jpg]
                             [**2122-2-28**]  09:57 PM
                             [**2122-3-1**]  06:44 AM
                             [**2122-3-1**]  02:44 PM
                             [**2122-3-2**]  08:15 AM
                             [**2122-3-3**]  01:54 AM
                             [**2122-3-3**]  10:07 PM
                             [**2122-3-4**]  03:26 PM
                             [**2122-3-5**]  02:30 AM
                             [**2122-3-5**]  03:37 PM
                             [**2122-3-6**]  02:04 AM
   WBC
   5.3
   6.4
   10.9
   11.5
   10.0
   7.1
   6.6
   6.3
   Hct
   23.5
   29.6
   32.1
   30.7
   27.9
   27.9
   28.1
   25.4
   Plt
   [**Telephone/Fax (3) 14181**]55
   149
   139
   166
   178
   Cr
   3.2
   3.2
   3.3
   3.3
   3.3
   3.1
   3.3
   3.4
   3.6
   3.7
   TropT
   0.08
   Glucose
   89
   87
   163
   103
   117
   144
   106
   110
   110
   108
   Other labs: PT / PTT / INR:11.9/32.2/1.0, CK / CKMB /
   Troponin-T:49//0.08, Alk Phos / T Bili:/0.4, Lactic Acid:0.7 mmol/L,
   Ca++:7.7 mg/dL, Mg++:2.2 mg/dL, PO4:7.0 mg/dL
   Assessment and Plan
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPERTENSION, BENIGN
   [**Age over 90 **] yo woman COPD, complicated medical history who is admitted to the
   ICU with RLL pneumonia with hypoxemia.  Renal funtion continues to
   deteriorate with evolving hyperkalemia.  Fluid status tenuous - likely
   has had some pulmonary edema with acute episode of hypoxemia 2 days ago
   but renal function would not tolerate diuresis.
   1. Pneumonia: Cont vanc by level, cefepime, cipro.
   2. Hypoxemia: COmfortable and satting well on 4-5L NC.
   3. Acute renal failure: Will plan for temp HD line and HD today.
   Appreciate Dr.[**Name (NI) 14187**] discussion with family - HD plan for now if for
   a self-limited trial in setting of other current problems.
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2122-3-3**] 05:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: